US06140338
Synthesis of N-[1-(cyclooctylmethyl)piperidin-4-yl]-2-hydroxymethyl-7-methoxycarbonylxanthene-9-carboxamide
12 mg of N-[1-(cyclooctylmethyl)piperidin-4-yl]-2-formyl-7-methoxycarbonylxanthene-9-carboxamide was dissolved in 1.0 ml of ethanol, 10 mg of sodium borohydride was added thereto, followed by stirring for 40 minutes at room temperature. Sodium sulfate decahydrate was added to the reaction solution, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by preparative thin layer chromatography (Kieselgel™60F254, Art5744 produced by Merck Co.: chloroform/methanol=95/5), and 10 mg of the title compound as a colorless solid was obtained.

reactant | N-[1-(cyclooctylmethyl)piperidin-4-yl]-2-formyl-7-methoxycarbonylxanthene-9-carboxamide | 12 mg | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C1C2=CC(=CC=C2OC=2C=CC(=CC12)C=O)C(=O)OC | C31H38N2O5
reactant | sodium borohydride | 10 mg | [BH4-].[Na+]
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | N-[1-(cyclooctylmethyl)piperidin-4-yl]-2-hydroxymethyl-7-methoxycarbonylxanthene-9-carboxamide | 10 mg | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C1C2=CC(=CC=C2OC=2C=CC(=CC12)CO)C(=O)OC | C31H40N2O5
